US07173031B2
B) Ethyl 4-(4-amino-2-fluorophenoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylate
To a solution of ethyl 4-(2-fluoro-4-nitrophenoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylate (36 mg, 0.1 mmol) in THF (1.0 mL) was added MeOH (0.7 mL) followed by Zn (130 mg, 2.0 mmol) and NH4Cl (53 mg, 1.0 mmol). The reaction was heated at 70° C. overnight. LC/MS analysis indicated mostly starting material. The solution was shaken vigorously and then heated to 75° C. LC/MS analysis after 4 h showed the desired product and many other peaks. The reaction was filtered through a coarse filter, and the filtrate was concentrated to a give 55 mg of a brown residue. The residue was suspended in THF and passed through an HPLC filter resulting in a clear filtrate. The filtrate was concentrated in vacuo to give 54 mg of the title compound as a crude mixture which was used in the next step without further purification.

reactant | ethyl 4-(2-fluoro-4-nitrophenoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylate | 0.1 mmol, 36 mg | FC1=C(OC2=NC=NN3C2=C(C(=C3)C(=O)OCC)C)C=CC(=C1)[N+](=O)[O-] | C16H13FN4O5
reactant | MeOH | 0.7 mL | CO | CH4O
reactant | NH4Cl | 1.0 mmol, 53 mg | [NH4+].[Cl-]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
catalyst | Zn | 2.0 mmol, 130 mg | [Zn] | Zn
product | Ethyl 4-(4-amino-2-fluorophenoxy)-5-methylpyrrolo[2,1-f][1,2,4]triazine-6-carboxylate | NC1=CC(=C(OC2=NC=NN3C2=C(C(=C3)C(=O)OCC)C)C=C1)F | C16H15FN4O3
